US05506190
N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide (0.500 g, 1.37 mmol), and benzene (30 ml) as a solvent were placed into a round bottom flask (50 cc) and, after blowing ethylamine (0.900 g, 20.0 mmol) thereinto, the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was distilled off under reduced pressure, and the precipitated crystals were isolated by filtration. The crystals were washed with hexane and dried to obtain N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-ethyl-3,4,5,6-tetrahydrophthalamide as white crystals (0.390 g, 69.4% yield).

reactant | N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 1.37 mmol, 0.500 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(C2=C(C1=O)CCCC2)=O | C19H19ClFNO3
reactant | ethylamine | 20.0 mmol, 0.900 g | C(C)N | C2H7N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-ethyl-3,4,5,6-tetrahydrophthalamide | 0.390 g, 69.4% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(C1=C(C(=O)NCC)CCCC1)=O | C21H26ClFN2O3
